US04585768
A mixture of 6.22 g of (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 60 ml of acetic anhydride and one ml of pyridine is refluxed for 4 hours. Then, the mixture is evaporated under reduced pressure to remove solvent. Benzene is added to the residue, and the mixture is evaporated under reduced pressure. 7 g of (-)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-benzyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained as an oil.

reactant | (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 6.22 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)CC1=CC=CC=C1)C=CC(=C2)Cl | C26H27ClN2O3S
reactant | acetic anhydride | 60 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | one ml | N1=CC=CC=C1 | C5H5N
product | (-)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-benzyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 7 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)CC1=CC=CC=C1)C=CC(=C2)Cl | C28H29ClN2O4S
